US07838674B2
3-Methoxy-4-(2-methoxy-ethoxy)-phenyl boronic acid pinacolester
4-Hydroxy-3-methoxyphenylboronic acid pinacol ester (Aldrich, 518786) (1 g; 4 mmol), 2-bromomethyl)-methylether (0.83 g; 6 mmol) and Cs2CO3 (2.6 g; 8 mmol) in DMF (10 ml) are heated to 130° C. for 45 minutes. The reaction mixture is diluted with TBME/heptane (5 ml/5 ml), filtered and evaporated to deliver the title compound as yellow oil used without further purification in Example 79.

reactant | 4-Hydroxy-3-methoxyphenylboronic acid pinacol ester | 4 mmol, 1 g | OC1=C(C=C(C=C1)B1OC(C)(C)C(C)(C)O1)OC | C13H19BO4
reactant | methylether | 6 mmol, 0.83 g | COC | C2H6O
reactant | Cs2CO3 | 8 mmol, 2.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | TBME heptane | 5 ml | CC(C)(C)OC.CCCCCCC
product | 3-Methoxy-4-(2-methoxy-ethoxy)-phenyl boronic acid | COC=1C=C(C=CC1OCCOC)B(O)O | C10H15BO5
